US07888352B2
Tert-butyl 4-((2-chloro-7-methyl-4-morpholinothieno[3,2-d]pyrimidin-6-yl)methyl)piperazine-1-carboxylate (777 mg) was subjected to General Procedure E to give the HCl salt of 2-chloro-7-methyl-4-morpholino-6-((piperazin-1-yl)methyl)thieno[3,2-d]pyrimidine. The HCl salt of 2-chloro-7-methyl-4-morpholino-6-((piperazin-1-yl)methyl)thieno[3,2-d]pyrimidine (590 mg) was reacted with lactic acid via General Procedure B-2 to give (S)-1-(4-((2-chloro-7-methyl-4-morpholinothieno[3,2-d]pyrimidin-6-yl)methyl)piperazin-1-yl)-2-hydroxypropan-1-one.

reactant | HCl | Cl | ClH
reactant | 2-chloro-7-methyl-4-morpholino-6-((piperazin-1-yl)methyl)thieno[3,2-d]pyrimidine | 590 mg | ClC=1N=C(C2=C(N1)C(=C(S2)CN2CCNCC2)C)N2CCOCC2 | C16H22ClN5OS
reactant | lactic acid | C(C(O)C)(=O)O | C3H6O3
product | (S)-1-(4-((2-chloro-7-methyl-4-morpholinothieno[3,2-d]pyrimidin-6-yl)methyl)piperazin-1-yl)-2-hydroxypropan-1-one | ClC=1N=C(C2=C(N1)C(=C(S2)CN2CCN(CC2)C([C@H](C)O)=O)C)N2CCOCC2 | C19H26ClN5O3S
